US04399134
5-Bromo-6-fluoro-8-nitroquinaldine (9.0 g) and morpholine (13.7 g) were dissolved in 90 ml of DMF and the solution was stirred at an internal temperature of 70° C. for 6.5 hours. Excessive morpholine and DMF were distilled off under reduced pressure and n-hexane was added to the residue followed by sufficient stirring. Then, isopropanol was added to the solution to precipitate solids which then was collected by filtration. The solids were dissolved in water and the aqueous solution was rendered alkaline with an aqueous sodium hydroxide solution to precipitate solids, which were collected by filtration to give 3.3 g of 5-morpholino-6-fluoro-8-nitroquinaldine.

reactant | 5-Bromo-6-fluoro-8-nitroquinaldine | 9.0 g | BrC1=C2C=CC(=NC2=C(C=C1F)[N+](=O)[O-])C | C10H6BrFN2O2
reactant | morpholine | 13.7 g | N1CCOCC1 | C4H9NO
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
product | 5-morpholino-6-fluoro-8-nitroquinaldine | 3.3 g | O1CCN(CC1)C1=C2C=CC(=NC2=C(C=C1F)[N+](=O)[O-])C | C14H14FN3O3
